Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
epigastric pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with h/o chronic pancreatitis, migraines, presenting with 
worsening abdominal pain. She reports symptoms started this AM. 
Had onset of pain and n/v. She reports pain in epigastric 
region, radiates to back between shoulder blades. She reports 
pain is like burning, hot poker; worse with PO intake, better 
with IV pain meds. She reports her symptoms are typical of 
pancreatitis flares. She denies diarrhea. Reports normal BM last 
yesterday. No fevers/chills, urinary symptoms, CP, SOB. She has 
not been able to identify any triggers for her flares. She last 
ate last night (mash potatoes) without difficulty.

She was seen at ___ and sent to our facility for continuity 
of care because her gastroenterologists are here. At ___, 
labs notable for lipase 21, AST/ALT ___, T bili 0.4, alk pho 
53, BUN/Cr ___, Na 140, K 3.9, WBC 11.3, Hct 38, UA neg.

Pt just admitted ___ with abd pain ___ flare of chronic 
pancreatitis. The patient has a history of history of chronic 
pancreatitis secondary to ampullary stricture. Pt w/ history of 
recurrent episodes of abdominal discomfort and possible 
pancreatic ductal stricture on ERCP, but EUS that is not 
diagnosistic of chronic pancreatitis. During recent admisison, 
she was placed NPO, given IVF, and IV pain and nausea control. 
Pt tolerating PO meds and diet was advanced on HD2 and was 
discharged. 

Of note, pt has had multiple episodes of pancreatitis w/ 
multiple ERCPs and sphincterotomies ___ w/ papillary 
stenosis s/p biliary sphincterotomy, ___ w/ diffuse dilation 
at CBD (12 mm) and sphincter restenosis s/p extension of 
sphincterotomy, hosp ___, managed conservatively). She 
underwent MRCP with secretin on ___ which was concerning 
for recurrence of ampullary stenosis w/ moderate upstream 
biliary and pancreatic ductal dilation. SHe underwent an ERCP 
duing a hospitalization from ___ to ___ that revealed a 
patent biliary area and ampulla, but a possible pancreatic 
ductal stricture. She was treated conservatively at that time. 
She was most recently hospitalized at ___ for a flare from 
___ to ___ for pancreatitis where she was treated 
conservatively at that time. 

In the ED, initial vital signs were 98.6 83 102/63 18 99% RA. 
Patient was given IV dilaudid x2, IV reglan. RUQ U/S showing no 
intrahepatic bile duct dilation. Mild dilation of the pancreatic 
duct and CBD are unchanged. Vitals on transfer 97.8 84 115/79 18 
99%.
 
On the floor, pt reports ___ epigastric pain.

 
Past Medical History:
-pancreatitis ___, s/p ERCP with sphincterotomy
-laparoscopic cholecystectomy ___
-pancreatitis ___, s/p ERCP with extension of sphincterotomy
-migraines
-seasonal allergies

 
Social History:
___
Family History:
Father with a history of pancreatitis,  mother with heart 
disease, grandmother with history of stomach cancer, died at age 
___.
 
Physical Exam:
Admission PE:
Vitals: 97.9, 74, 126/87, 16, 99% RA
General- middle-aged white female, sitting up in bed, in NAD
HEENT- Sclera anicteric, MMM, oropharynx clear  
CV- RRR, no murmurs  
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
Abdomen- soft, epigastric tender and otherwise nontender, 
non-distended, bowel sounds present, no rebound tenderness or 
guarding
Back- no CVAT
GU- no foley  
Ext- warm, well perfused, no ___ edema
Neuro- grossly intact

Discharge Physical Exam:  
Vitals- 98.4, 113/84, 78, 18, 100%RA  
General- middle-aged white female, sitting up in bed, in NAD  
HEENT- Sclera anicteric, MMM, oropharynx clear  
CV- RRR, no murmurs  
Lungs- Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
Abdomen- soft, decreased tenderness in epigastric region, 
non-distended, bowel sounds present, no rebound tenderness or 
guarding  
Ext- warm, well perfused, no ___ edema  
Neuro- grossly intact  
 
Pertinent Results:
ADMISSION LABS:
At ___, labs notable for lipase 21, AST/ALT ___, T bili 
0.4, alk pho 53, BUN/Cr ___, Na 140, K 3.9, WBC 11.3, Hct 38, 
UA neg. 

IMAGING:
RUQ U/S
IMPRESSION: No intrahepatic bile duct dilation. Prominent 
pancreatic duct and mild dilation of the common duct are 
unchanged from prior studies.

DISCHARGE LABS:
___ 08:20AM BLOOD WBC-3.4* RBC-3.98* Hgb-11.2* Hct-35.1* 
MCV-88 MCH-28.2 MCHC-31.9 RDW-14.8 Plt ___
___ 08:20AM BLOOD Glucose-101* UreaN-5* Creat-0.5 Na-140 
K-3.9 Cl-105 HCO3-27 AnGap-12
___ 08:20AM BLOOD Calcium-8.8 Phos-3.3 Mg-2.___ with h/o chronic pancreatitis secondary to ampullary 
stricture, migraines, presenting with worsening abdominal pain, 
n/v typical of pancreatitis flare.
.
# Abd pain: likely ___ flare of chronic pancreatitis. She 
reports pain typical of pancreatitis flare. She has been unable 
to identify triggers, but she reports that she had store 
packaged mashed potatoes. Her lipase was flat at ___ 
___. She was placed NPO, put on IVF, given IV Promethazine 
PRN for nausea control, and IV Dilaudid for pain control. The 
patient's nausea was controlled and her diet was advanced to 
clear liquids and then a BRAT diet. The patient's pain improved, 
was able to take POs and requested D/C home. She will have 
follow up with her PCP and outpatient gastroenterologist. 

TRANSITIONAL ISSUES:
The patient now has 3 admission from ___ between ___ 
___ and 2 at ___ for this abdominal pain with no lab 
abnormalities and no abnormalities on imaging. She can identify 
no trigger for the abdominal pain. She has under gone studies in 
the past that have been split if she has chronic pancreatitis. 
Th abdominal pain has an unclear etiology but warent further 
work up and perhaps a plan can be put in place with the patient 
and outpatient providers to help reduce the risk of readmission. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
2. Sumatriptan Succinate 6 mg SC X1:PRN migraine 
3. Acetaminophen w/Codeine ___ TAB PO Q6H:PRN pain 
4. HYDROmorphone (Dilaudid) ___ mg PO Q6H:PRN pain 
5. Promethazine 25 mg PO Q6H:PRN nausea 

 
Discharge Medications:
1. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
2. HYDROmorphone (Dilaudid) ___ mg PO Q6H:PRN pain 
RX *hydromorphone 2 mg ___ tablet(s) by mouth Every 6 hours Disp 
#*14 Tablet Refills:*0
3. Promethazine 25 mg PO Q6H:PRN nausea 
4. Creon 12 1 CAP PO TID W/MEALS 
5. Acetaminophen w/Codeine ___ TAB PO Q6H:PRN pain 
6. Sumatriptan Succinate 6 mg SC X1:PRN migraine 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chronic Pancreatitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms ___,

It was a pleasure taking care of you while you were in the 
___. You were admitted with abdominal pain. You were kept 
on IV fluids and nothing by mouth and your pain and neause 
improved. You were able to tolerate a regular diet and are being 
discharged home. Please folow up with your primary care provider 
and take your medications as directed. 
 
Followup Instructions:
___